US04374248
A. N-[3-(3-Nitrophenoxy)propyl]phthalimide
A partial suspension of m-nitrophenol (6.0 g; 43.0 mmoles), N-(3-bromopropyl)phthalimide (10.0 g; 37.0 mmoles) and potassium carbonate (8.0 g; 58.0 mmoles) in 50 ml of DMF was stirred at ambient temperature for 70 hours. The reaction mixture was diluted with 80 ml of water and filtered to give product. Recrystallization from 2-methoxyethanol yielded 9.15 g of the title compound, mp 149°-152°.

reactant | m-nitrophenol | 43.0 mmoles, 6.0 g | [N+](=O)([O-])C=1C=C(C=CC1)O | C6H5NO3
reactant | N-(3-bromopropyl)phthalimide | 37.0 mmoles, 10.0 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | potassium carbonate | 58.0 mmoles, 8.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | water | 80 ml | O | H2O
product | N-[3-(3-Nitrophenoxy)propyl]phthalimide | 9.15 g | [N+](=O)([O-])C=1C=C(OCCCN2C(C=3C(C2=O)=CC=CC3)=O)C=CC1 | C17H14N2O5
